US09340547B2
a) tert-Butyl 1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate
The title compound was prepared following the experimental procedure described in preparation 20a from 1.50 g (7.45 mmol) of 1-amino-N-phenyl-1H-pyrrole-2-carboxamide and 1.82 g (8.95 mmol) of racemic 2-(tert-butoxycarbonylamino)butanoic acid (purchased from ABCR, cat. no. AB154485). After recristallysation of the crude product in diethylether, 2.43 g (84% yield) of the title compound were obtained.

reactant | 1-amino-N-phenyl-1H-pyrrole-2-carboxamide | 7.45 mmol, 1.50 g | NN1C(=CC=C1)C(=O)NC1=CC=CC=C1 | C11H11N3O
reactant | racemic 2-(tert-butoxycarbonylamino)butanoic acid | 8.95 mmol, 1.82 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC | C9H17NO4
solvent | diethylether | C(C)OCC | C4H10O
product | tert-Butyl 1-oxo-1-(2-(phenylcarbamoyl)-1H-pyrrol-1-ylamino)propan-2-ylcarbamate | 2.43 g, 84% yield | O=C(C(C)NC(OC(C)(C)C)=O)NN1C(=CC=C1)C(NC1=CC=CC=C1)=O | C19H24N4O4
